US06057452
Methyl (2R,3S)-3-(9-anthracenesulfonamido)-3-phenyl-2-hydroxypropionate (II)
(3S)-3-Phenylisoserine methyl ester (I, 0.38 g, 1.95 mmol) is dissolved in methylene chloride (5 mL) and pyridine (1 mL) and the solution treated with a suspension of 9-anthracenesulfonylchloride (0.536 g, 1.95 mmol). The reaction is stirred at 23° for 90 min. The reaction is then poured into methylene chloride and extracted with hydrochloric acid (1 N) and aqueous bicarbonate (5%) and dried over magnesium sulfate. Concentration of the organic layer under reduced pressure produces crude product. This concentrate is chromatographed (silica gel 60; ethyl acetate/toluene, 20/80) to give the title compound, TLC (silica gel GF) Rf =0.38 in (ethyl acetate/toluene, 2/8); NMR (CDCl3, TMS) 3.11, 3.57, 4.18, 4.78, 6.22, 6.59, 6.67, 7.50, 7.55-7.75, 7.92, 8.09, 8.47 and 9.15 δ

reactant | (3S)-3-Phenylisoserine methyl ester | 1.95 mmol, 0.38 g | COC(C([C@@H](N)C1=CC=CC=C1)O)=O | C10H13NO3
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
reactant | 9-anthracenesulfonylchloride | 1.95 mmol, 0.536 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)S(=O)(=O)Cl | C14H9ClO2S
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | Methyl (2R,3S)-3-(9-anthracenesulfonamido)-3-phenyl-2-hydroxypropionate | C1=CC=CC2=CC3=CC=CC=C3C(=C12)S(=O)(=O)N[C@H]([C@H](C(=O)OC)O)C1=CC=CC=C1 | C24H21NO5S
